US09107411B2
Ethyl 6-chloro-2-({2,2,2-trifluoro-1-[4-fluoro-3-(trifluoromethyl)phenyl]ethyl}carbamoyl)-1H-indole-5-carboxylate (0.42 g, 0.82 mmol) was dissolved under argon at 0° C. in N,N-dimethylformamide (6 ml). Sodium hydride (60%; 0.028 g, 0.72 mmol) was added and the mixture was stirred while cooling with ice for 2 h. Iodoethane (0.10 g, 0.65 mmol) was added. The reaction mixture was thawed while stirring within 36 h. Water and ethyl acetate were added and the phases were separated. The organic phase was washed with saturated sodium chloride solution and dried over magnesium sulphate, and the solvent was removed under reduced pressure. The residue was chromatographed with cyclohexane/ethyl acetate (4/1) and gave 0.23 g (53% of theory) of ethyl 6-chloro-1-ethyl-2-({2,2,2-trifluoro-1-[4-fluoro-3-(trifluoromethyl)phenyl]ethyl}carbamoyl)-1H-indole-5-carboxylate.

reactant | Ethyl 6-chloro-2-({2,2,2-trifluoro-1-[4-fluoro-3-(trifluoromethyl)phenyl]ethyl}carbamoyl)-1H-indole-5-carboxylate | 0.82 mmol, 0.42 g | ClC1=C(C=C2C=C(NC2=C1)C(NC(C(F)(F)F)C1=CC(=C(C=C1)F)C(F)(F)F)=O)C(=O)OCC | C21H14ClF7N2O3
reactant | Sodium hydride | 0.72 mmol, 0.028 g | [H-].[Na+]
reactant | Iodoethane | 0.65 mmol, 0.10 g | ICC | C2H5I
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | 6 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | ethyl 6-chloro-1-ethyl-2-({2,2,2-trifluoro-1-[4-fluoro-3-(trifluoromethyl)phenyl]ethyl}carbamoyl)-1H-indole-5-carboxylate | 0.23 g, 53% | ClC1=C(C=C2C=C(N(C2=C1)CC)C(NC(C(F)(F)F)C1=CC(=C(C=C1)F)C(F)(F)F)=O)C(=O)OCC | C23H18ClF7N2O3
